US05106522
Preparation of Pentachlorophenyl Hexyl Ether
170 g (0.6 mol) of sodium pentachlorophenate and 350 ml of absolute alcohol were placed in a liter conical flask. The reactants were stirred under reflux until dissolution was complete. The condenser was removed and 97 g (83 ml:0.6 mol) of 1-bromohexane were added. The mixture was then left refluxing for about 12 hours with the stirrer on maximum speed. Solid (NaBr) was gradually deposited and on allowing the flask to stand and cool three layers were formed: a lower solid layer, an oily middle layer (the product), and an upper layer of alcohol. The flask contents were next remixed and transfered as completely as possible to a liter round bottomed flask. The alcohol was removed on a rotovap (60° C. and 100 mm), and then the flask was cooled to room temperature. 500 ml of light petrol (40/60) were added, the flask was stoppered, and then shaken vigorously for a few seconds. The pressure was next cautiously released, and the process was repeated until all the solid was in free suspension. The mixture was then rapidly filtered at the pump, then the dark brown liquid was transfered to a column of alumina (about 8"×1"). It was found that a few yellow bands moved quickly down the column. These were collected in the same receiver as the bulk of the sample--the dark colouration will collect on the top 1" of the column. A small amount of petrol was then added to wash through the column.

reactant | sodium pentachlorophenate | 0.6 mol, 170 g | C1(=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)[O-].[Na+]
reactant | 1-bromohexane | 0.6 mol, 83 ml, 97 g | BrCCCCCC | C6H13Br
reactant | NaBr | [Na+].[Br-]
product | Pentachlorophenyl Hexyl Ether | C(CCCCC)OC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C12H13Cl5O
